US07094801B2
Ex-104A: 2,4-Dimethoxy-5-pyridin-3-yl-benzaldehyde was prepared in a similar manner as described in Ex-3A from pyridine-3-boronic acid and 5-bromo-2,4-dimethoxybenzaldehyde, 68% yield. 1H-NMR (CDCl3) δ 10.33 (s, 1H), 8.71 (d, J=1 Hz, 1H), 8.51–8.53 (m, 1H), 7.81 (s, 1H), 7.74–7.78 (m, 1H), 7.27–7.31 (m, 1H), 6.52 (s, 1H), 3.99 (s, 3H), 3.91 (s, 3H). HMRS (EI) calcd. for C14H13NO3: 243.0895; found: 243.0888.

reactant | pyridine-3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 5-bromo-2,4-dimethoxybenzaldehyde | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
product | 2,4-Dimethoxy-5-pyridin-3-yl-benzaldehyde | 68% yield | COC1=C(C=O)C=C(C(=C1)OC)C=1C=NC=CC1 | C14H13NO3
